US06951879B2
In analogy to example 13.1, the Trifluoro-methanesulfonic acid 2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl ester was reacted with 2-propyn-1-ol to yield the 3-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-prop-2-yn-1-ol as yellow oil, MS: 346 (M+).

reactant | Trifluoro-methanesulfonic acid 2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl ester | CC1=C(C2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H10F6O3S2
reactant | 2-propyn-1-ol | C(C#C)O | C3H4O
product | 3-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-prop-2-yn-1-ol | CC1=C(C2=C(S1)C=C(C=C2)C#CCO)C2=CC=C(C=C2)C(F)(F)F | C19H13F3OS
